US06255494B1
Preparation of 2-(4-chlorophenoxymethyl)-4-[5-(piperidin-4-yl)pentoxy]-1-[5-(piperidin-4-yl]pentyl]benzimidazole
The title compound is prepared from 2-(4-chlorophenoxymethyl)-4-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentoxy]-1-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentyl]benzimidazole by standard deprotection techniques using trifluoroacetic acid.

reactant | 2-(4-chlorophenoxymethyl)-4-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentoxy]-1-[5-[1-(t-butoxycarbonyl)piperidin-4-yl]pentyl]benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCCCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C3OCCCCCC3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C44H65ClN4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-chlorophenoxymethyl)-4-[5-(piperidin-4-yl)pentoxy]-1-[5-(piperidin-4-yl]pentyl]benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCCCC2CCNCC2)C=CC=C3OCCCCCC3CCNCC3)C=C1 | C34H49ClN4O2
